US04180679
A. Preparation of α'-Bromo-4-chloro-3,5-dinitro-o-xylene
Phosphorus tribromide (18.0 g; 0.067 mol) is added dropwise at 10° C. to a stirred slurry of 4-chloro-2-methyl-3,5-dinitrobenzyl alcohol (50.0 g; 0.20 mol) in benzene (100 ml). The reaction mixture is allowed to warm to room temperature and then heated to reflux for 5 hours. After standing at room temperature overnight, the mixture is poured into water and extracted with ether. Insoluble material present is collected and dried to yield 18.9 g solid, melting point 115°-120° C. Removal of the ether from the extracts yields additional 38.6 g solid, melting point 106° C.-112° C.

reactant | Phosphorus tribromide | 0.067 mol, 18.0 g | P(Br)(Br)Br | Br3P
reactant | 4-chloro-2-methyl-3,5-dinitrobenzyl alcohol | 0.20 mol, 50.0 g | ClC1=C(C(=C(CO)C=C1[N+](=O)[O-])C)[N+](=O)[O-] | C8H7ClN2O5
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | α'-Bromo-4-chloro-3,5-dinitro-o-xylene | 18.9 g | BrCC=1C(=CC(=C(C1[N+](=O)[O-])Cl)[N+](=O)[O-])C | C8H6BrClN2O4
